US04562270
10.0 g 4,5-dihydro-5-bromomethyl-(3H)-furanone are refluxed with 3.0 g sodium methylate in 37 ml methanol for 5 hours. The solvent is eliminated in vacuum and the residue is dissolved in 20 ml H2O and then extracted with ether. The ethereal phase is dried through a molecular sieve and the ether eliminated in vacuum. The residue is distilled at 20 mm. 6.4 g 4,5-epoxypentane carboxylic acid methyl ester (boiling point at 20 mm, 85° C.) is obtained.

reactant | 4,5-dihydro-5-bromomethyl-(3H)-furanone | 10.0 g | BrCC1CCC(O1)=O | C5H7BrO2
reactant | sodium methylate | 3.0 g | C[O-].[Na+]
reactant | methanol | 37 ml | CO | CH4O
solvent | H2O | 20 ml | O | H2O
product | 4,5-epoxypentane carboxylic acid methyl ester | 6.4 g | COC(=O)CCCC1CO1 | C7H12O3
